US08802679B2
To an ice-cooled solution of tert-butyl (2-{[(4′-aminobiphenyl-3-yl)methyl](methyl)amino]-2-oxoethyl}carbamate (200 mg) in dichloromethane (4 ml) was added 2-propyl isocyanate (55 mg), followed by stirring at room temperature for 2 hours. To the reaction mixture was added water, followed by stirring, and the organic layer was purified by silica gel column chromatography (2% MeOH/CHCl3) to obtain tert-butyl {2-[({4′-[(isopropylcarbamoyl)amino]biphenyl-3-yl}methyl)(methyl)amino]-2-oxoethyl}carbamate (240 mg) as a colorless oil.

reactant | tert-butyl (2-{[(4′-aminobiphenyl-3-yl)methyl](methyl)amino]-2-oxoethyl}carbamate | 200 mg | NC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CNC(OC(C)(C)C)=O)=O)C | C21H27N3O3
reactant | 2-propyl isocyanate | 55 mg | CC(C)N=C=O | C4H7NO
reactant | water | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | tert-butyl {2-[({4′-[(isopropylcarbamoyl)amino]biphenyl-3-yl}methyl)(methyl)amino]-2-oxoethyl}carbamate | 240 mg | C(C)(C)NC(=O)NC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CNC(OC(C)(C)C)=O)=O)C | C25H34N4O4
